US04900737
5-Chloroacetoxy-1,4-naphthalenedione
5-Hydroxy-1,4-naphthalenedione (30 g), chloroacetic anhydride (180 g) and 4-dimethylaminopyridine (6 g) in dioxan (750 ml) were stirred at room temperature for 30 minutes then poured onto ice and water (about 4 liters) to give a solid which was collected by filtration, air dried at room temperature (about 2 hours) and then dried under reduced pressure (0.1 mm) at 50° for 17 hours to give the title compound (44 g). A sample was recrystallised (2×) from ethyl acetate-petroleum ether (b.p. 60°-80°) to give the title compound m.p. 125°-127° (d).

reactant | 5-Hydroxy-1,4-naphthalenedione | 30 g | OC1=C2C(C=CC(C2=CC=C1)=O)=O | C10H6O3
reactant | chloroacetic anhydride | 180 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | water | about 4 liters | O | H2O
catalyst | 4-dimethylaminopyridine | 6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxan | 750 ml | O1CCOCC1 | C4H8O2
product | 5-Chloroacetoxy-1,4-naphthalenedione | 44 g | ClCC(=O)OC1=C2C(C=CC(C2=CC=C1)=O)=O | C12H7ClO4
